US04806558
4-[(5,6,7,8-Tetrahydro-3,8,8-trimethylnaphth-2-yl)-ethynyl]-benzonitrile
Using a process similar to that described in Example 1c, 4.4 g (22 millimoles) of (5,6,7,8-tetrahydro-3,8,8-trimethylnaphth-2-yl)-ethyne and 2.7 g (15 millimoles) of 4-bromobenzonitrile were converted to the title compound. 1.3 g (29%) of product of melting point 128°-130° C. were obtained after recrystallization from ethanol.

reactant | (5,6,7,8-tetrahydro-3,8,8-trimethylnaphth-2-yl)-ethyne | 22 millimoles, 4.4 g | CC=1C(=CC=2C(CCCC2C1)(C)C)C#C | C15H18
reactant | 4-bromobenzonitrile | 15 millimoles, 2.7 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
product | 4-[(5,6,7,8-Tetrahydro-3,8,8-trimethylnaphth-2-yl)-ethynyl]-benzonitrile | CC=1C(=CC=2C(CCCC2C1)(C)C)C#CC1=CC=C(C#N)C=C1 | C22H21N
